US04447434
5,10-dihydro-5-[(1,5-dimethyl-1,2,5,6-tetrahydro-4-pyridinyl)-carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
By reacting 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one with 3-methylisonicotinic acid chloride (m.p. 155°-156° C.) via 5,10-dihydro-5-[3-methyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one, m.p. 223°-224° C. (diisopropylether/methanol) and 5,10-dihydro-5[(3-methyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]-diazepin-11-one methoiodide;

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | 3-methylisonicotinic acid chloride | CC1=C(C(=O)Cl)C=CN=C1 | C7H6ClNO
reactant | 11H-dibenzo[b,e][1,4]diazepin-11-one | C1=CC=CC=2N=C3C(=NC(C21)=O)C=CC=C3 | C13H8N2O
reactant | diisopropylether methanol | C(C)(C)OC(C)C.CO
reactant | 5,10-dihydro-5[(3-methyl-4-pyridinyl)carbonyl]-11H-dibenzo[b,e][1,4]-diazepin-11-one | CC=1C=NC=CC1C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H15N3O2
product | 5,10-dihydro-5-[(1,5-dimethyl-1,2,5,6-tetrahydro-4-pyridinyl)-carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CC=C(C(C1)C)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C21H21N3O2
